reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:2]1([H:9])([H:10])[C@:3]2([H:11])[C@@:4]1([H:13])[C:5](=[O:6])[C:7]2([H:14])[H:15].[O:1]([H:8])[H:12]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],72.4380426117935
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])=[O:6].[H:9][H:18]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],48.6349630631885
[C+:1]([N:2]([C:3]([N-:4][H:12])=[C:5]([O:6][H:9])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],26.131012142009183
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[O:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],68.9586730282268
[C:1]([C@@:2]([O:3][H:11])([C:4](=[C:5]=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9].[H:12][H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],51.816128321886204
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[C:4]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10].[C:5](=[O:6])=[C:7]([H:14])[H:15],68.241737622028
[C:1]([O:6][H:16])([H:7])([H:8])[H:9].[C:2]1([H:10])=[C:5]([H:15])[C:3]1([C:4]([H:12])([H:13])[H:14])[H:11]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9],72.13015756543001
[C:1]([O:2]/[C:3](=[C:4](/[C:5]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[O:6]([H:10])[H:16]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],61.73154518637741
[C:1]([N:2]([C@:3]1([H:12])[O:4][C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],52.40547304582899
[C:1](=[N+:2]([C:3]([N:4]([H:11])[H:12])=[C:5]([O-:6])[N:7]([H:13])[H:14])[H:9])([H:8])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],32.353418900424685
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:5](=[O:6])=[C:7]([H:14])[H:15]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],58.7965893737051
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3]([C:4]([H:14])([H:15])[H:16])=[N:5]/[C:6](=[O:7])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17],96.1753979759667
[C:3](=[O:4])([H:10])[H:11].[H:8][H:12].[N:1](=[C:2](\[C:5]#[N:6])[H:9])\[H:7]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],48.56272406476619
[C-:2](=[O+:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])[H:11].[C:1]([H:8])([H:9])([H:10])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],14.171461258339406
[C:1](=[C:2]1[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:9])[H:10].[H:8][H:11]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10],77.330038303295
[C:1]([C:2]([C:3]([O:4][H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:15]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],32.99411776903291
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23>>[C:1](=[C:5]([C:4]([C@:3]1([H:10])[C:2]([H:9])=[N:6]1)([H:11])[H:12])[H:13])([H:7])[H:8],75.04620602503509
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4](=[C:5]([H:14])[H:15])[C:6]1=[C:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],63.9227904202553
[C:1]([C:2]#[C:3][C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]=[C:3]=[C:4]=[N:5][H:7])([H:6])[H:8],90.3410193372241
[C:1]([C:2](/[C:3](=[C:5](/[C:6]([O:7][H:19])([H:17])[H:18])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],55.84993984812521
[C:1]([C:2]([n:3]1[c:4]([H:13])[c-:5][n:6]([H:14])[c+:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],38.08924490347899
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]#[C:2][H:8].[N:3]#[N+:4][C:7](=[C:6]([O-:5])[H:9])[H:10],87.5182912695487
